* Simple single node Rectifier
*V1 1 0 AC 10 1e6
V1 3 0 AC 10 1e6 0
V2 3 4 AC 5 0.5e6 1
V3 4 1 AC 1 0.25e6 0.5
*
D1 1 2 10e-12 25e-3
R1 2 0 1000
C1 2 0 1e-6
.end
